US04596777
100 mg. of a Escherichia coli acylase that is bound in a polyacrylamide matrix (Boehringer Mannheim) is mixed with an aqueous solution containing 4 mg. of 2-(formylamino)-4-thiazoleacetic acid and an aqueous solution containing 2 mg. of (3S)-3-amino-4-methyl-2-oxo-1-azetidinesulfonic acid, inner salt in a total volume of 2 ml. The pH of the reaction mixture is adjusted to pH 4.5 by the addition of 50 mmolar sodium hydroxide. The reaction mixture is incubated at 30° C. with shaking (60 rpm) for up to 20 hours. The desired product can then be separated from the reaction mixture by thin layer chromatography using a silica gel 60 F254 plate and developing in a solvent consisting of acetonitrile, ethyl acetate, acetic acid, and water (4:4:1:1) followed by elution with water to give (3S)-3-[[[2-(formylamino)-4-thiazolyl]acetyl]amino]-4-methyl-2-oxo-1-azetidinesulfonic acid, zwitterion.

reactant | 2-(formylamino)-4-thiazoleacetic acid | C(=O)NC=1SC=C(N1)CC(=O)O | C6H6N2O3S
reactant | (3S)-3-amino-4-methyl-2-oxo-1-azetidinesulfonic acid | N[C@@H]1C(N(C1C)S(=O)(=O)O)=O | C4H8N2O4S
reactant | sodium hydroxide | 50 mmolar | [OH-].[Na+]
product | (3S)-3-[[[2-(formylamino)-4-thiazolyl]acetyl]amino]-4-methyl-2-oxo-1-azetidinesulfonic acid | C(=O)NC=1SC=C(N1)CC(=O)N[C@@H]1C(N(C1C)S(=O)(=O)O)=O | C10H12N4O6S2
